US04804665
2-Hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride
In a mixture solvent consisting of methanol (100 ml) and 1N hydrochloric acid (50 ml) was dissolved 8-benzyl-2-benzyloxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride (16.0 g). The solution was subjected to catalytic reduction at 40° C. for 12 hours under atmospheric pressure, using palladium as the catalyst. After the reaction, the catalyst was removed, and the solvent was evaporated off under reduced pressure. The residual solid was recrystallized from ethanol to obtain 8.9 g of a colorless solid, m.p. 250° to 277° C.

reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
reactant | 8-benzyl-2-benzyloxy-2,8-diazaspiro[4,5]decane-1,3-dione hydrochloride | 16.0 g | Cl.C(C1=CC=CC=C1)N1CCC2(CC(N(C2=O)OCC2=CC=CC=C2)=O)CC1
catalyst | palladium | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | 2-Hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione.hydrochloride | 8.9 g | Cl.ON1C(C2(CC1=O)CCNCC2)=O | InChI=1S/C8H12N2O3.ClH/c11-6-5-8(7(12)10(6)13)1-3-9-4-2-8;/h9,13H,1-5H2;1H
